US07544672B2
A solution of 1-(but-3-ynyl)piperazine (445 mg) in THF (4 mL) was treated with 4-nitrophenyl carbonochloridate (649 mg) at rt for 5 min. A precipitate formed immediately, and the suspension was treated with Et3N (0.45 mL) to ensure complete reaction. The suspension was diluted wiht H2O (2 mL), MeOH (2 mL) and 40% aq. MeNH2 (4.0 mL) and stirred at rt for 3 days. Extraction with DCM (50 mL), washing (NaOH 2M), drying (Na2SO4) and concentration gave 4-(but-3-ynyl)-N-methylpiperazine-1-carboxamide (370 mg).

reactant | 1-(but-3-ynyl)piperazine | 445 mg | C(CC#C)N1CCNCC1 | C8H14N2
reactant | 4-nitrophenyl carbonochloridate | 649 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Et3N | 0.45 mL | CCN(CC)CC | C6H15N
reactant | MeNH2 | 4.0 mL | CN | CH5N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | 4-(but-3-ynyl)-N-methylpiperazine-1-carboxamide | 370 mg | C(CC#C)N1CCN(CC1)C(=O)NC | C10H17N3O
